US08710043B2
A suspension of 3-bromo-2-dibromomethyl-pyridine (10.0 g, 30.32 mmole) in morpholine (30.0 mL) was heated to 60° C. for 1 h. The reaction mixture was cooled to rt and diluted with EtOAc (200 mL). The pH was adjusted to 4.0 by adding citric acid (40.0 g). The reaction mixture was then extracted with EtOAc (3×200 mL) and the combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography using silica (100-200 mesh) using 3% EtOAc in hexane as eluent to give 3-bromo-pyridine-2-carbaldehyde. 1H-NMR (400 MHz, CDCl3): δ 10.23 (s, 1H), 8.74-8.76 (d, 1H), 8.02-8.04 (d, 1H), 7.26-7.38 (t, 1H).

reactant | 3-bromo-2-dibromomethyl-pyridine | 30.32 mmole, 10.0 g | BrC=1C(=NC=CC1)C(Br)Br | C6H4Br3N
reactant | citric acid | 40.0 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | morpholine | 30.0 mL | N1CCOCC1 | C4H9NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 3-bromo-pyridine-2-carbaldehyde | BrC=1C(=NC=CC1)C=O | C6H4BrNO
